### PR TITLE
[Merged by Bors] - chore: minor proof cleanup around `tauto`

### PR DESCRIPTION
**Pull request by kim-em**
While surveying uses of `tauto` in Mathlib, noticed a few proofs that can be cleaned up.

### CODE REVIEW

**Comment by grunweg** [comment]
!bench

File: Mathlib/Algebra/Polynomial/Degree/Lemmas.lean [hunk 1]
```diff
@@ -278,9 +278,7 @@ theorem natDegree_map_eq_iff {f : R →+* S} {p : Polynomial R} :
   · simp_rw [h, ne_eq, or_true, iff_true, ← Nat.le_zero, ← h, natDegree_map_le]
   have h2 : p ≠ 0 := by rintro rfl; simp at h
   have h3 : degree p ≠ (0 : ℕ)  := degree_ne_of_natDegree_ne h
```
Comment (grunweg) [inline Mathlib/Algebra/Polynomial/Degree/Lemmas.lean:280]: It seems this have is superfluous now:
```suggestion
  have h3 : degree p ≠ (0 : ℕ)  := degree_ne_of_natDegree_ne h

**Comment by grunweg** [comment]
Thanks!
maintainer merge

**Comment by ocfnash** [comment]
Thanks!

bors merge
